US07799762B2
a. N-Terbutyloxycarbonyl-DL-homoserine
To a solution of homoserine bromohydrate (2 g ; 16.78 mmol.) in H2O (20 ml), addition was made in succession of a 1 M NaOH solution (16.78 ml) and cesium carbonate (3.01 g; 9.23 mmol.). After stirring for 5 minutes, the solution was cooled in an ice/water bath. Dioxane (60 ml) and t-butyl pyrocarbonate were then added. The reaction mixture was kept under stirring in an ice-cold water bath for 1 hour and thereafter at room temperature for 5 hours. The solvent was subsequently evaporated under vacuum and the dry residue was directly used in the next step.

reactant | homoserine | 16.78 mmol, 2 g | N[C@@H](CCO)C(=O)O | C4H9NO3
reactant | NaOH | 1 M, 16.78 ml | [OH-].[Na+]
reactant | cesium carbonate | 9.23 mmol, 3.01 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | t-butyl pyrocarbonate | C(OC(C)(C)C)(=O)OC(=O)[O-]
solvent | H2O | 20 ml | O | H2O
solvent | Dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N-Terbutyloxycarbonyl-DL-homoserine | C(C)(C)(C)OC(=O)NC(CCO)C(=O)O | C9H17NO5
